US07858646B2
Synthesis of 6-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinic acid
Mix 6-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinonitrile (,0.14 g, 0.34 mmol), powdered potassium hydroxide (0.69 g, 12.20 mmol), isopropyl alcohol (1.5 mL) and water (1.5 mL). Heat to 130° C. for 8 hrs. Allow to cool to ambient temperature. Pour into water (20 mL) and acidify to pH 1 with hydrochloric acid (37% in water, 1 mL). Extract with ethyl acetate (3×30 mL). Combine the organic extracts, dry over magnesium sulfate, filter and concentrate under reduced pressure to obtain a residue. Purification using 5% isopropyl alcohol/chloroformchloroform to 10% isopropyl alcohol/chloroformchloroform as gradient eluent gives the title compound (0.02 g, 17%): MS (m/z): 420.1 (M−1). 1H NMR (acetone-d6) 12.94 (s, 1H), 8.77 (s, 1H), 8.40 (dd, J=2.4 Hz, 8.4 Hz, 1H), 7.84 (d, J=9.0 Hz, 1H), 7.62 (d, J=8.4 Hz, 2H), 7.30 (d, J=8.4 Hz, 2H), 7.15 (d, J=8.4 Hz, 1H), 6.79 (d, J=9.2 Hz, 1H), 5.34 (s, 2H), 2.73 (t, J=7.5 Hz, 2H), 2.63 (s, 3H), 1.66-1.56 (m, 2H), 0.96 (t, J=7.5 Hz, 3H).

reactant | 6-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinonitrile | 0.34 mmol, 0.14 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(OC3=NC=C(C#N)C=C3)C=C2)C=C1)CCC)O | C24H22N2O4
reactant | potassium hydroxide | 12.20 mmol, 0.69 g | [OH-].[K+]
reactant | isopropyl alcohol | 1.5 mL | C(C)(C)O | C3H8O
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | water | 20 mL | O | H2O
reactant | water | 1.5 mL | O | H2O
product | 6-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinic acid | 0.02 g, 17% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(OC3=NC=C(C(=O)O)C=C3)C=C2)C=C1)CCC)O | C24H23NO6
